US06103905
To a 10 mL pear-shaped flask was added 2-(N-Boc-3-indolyl)-4-quinolinecarboxylic acid or ester (1 mmol) and 3 mL of a 50% mixture of TFA and DCM. The reaction mixture was stirred for 30 min at 20° C. The solvent was removed under reduced pressure and the residual solid lyophilized to give 2-(3-indolyl)-4-quinolinecarboxylic acid or ester (95-100% yield).

reactant | 2-(N-Boc-3-indolyl)-4-quinolinecarboxylic acid | C(=O)(OC(C)(C)C)N1C=C(C2=CC=CC=C12)C1=NC2=CC=CC=C2C(=C1)C(=O)O | C23H20N2O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-(3-indolyl)-4-quinolinecarboxylic acid | N1C=C(C2=CC=CC=C12)C1=NC2=CC=CC=C2C(=C1)C(=O)O | C18H12N2O2
